US08003649B2
TFA (5 mL) was added to tert-butyl 4-(4-aminophenyl)piperidine-1-carboxylate (1.9 g, 6.87 mmol, CAS 170011-57-1) in DCM (5 mL). The resulting solution was stirred at ambient temperature for 2 hours then added to an SCX column. The desired product was eluted from the column using 2M ammonia in methanol and the solvent evaporated to dryness to give 4-(piperidin-4-yl)aniline (1.210 g, 100%) as a solid.

reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl 4-(4-aminophenyl)piperidine-1-carboxylate | 6.87 mmol, 1.9 g | NC1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C16H24N2O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-(piperidin-4-yl)aniline | 1.210 g, 100% | N1CCC(CC1)C1=CC=C(N)C=C1 | C11H16N2
